US05352792
To a solution of 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetylamino]-3-(2-methyltetrazol-5-yl thiomethylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester 1-oxide (1.38 g: 1.31 mMol.) in dimethylformamide (15 ml) at -20° C. is added phosphorus trichloride (0.33 ml: 3.28 mMol.), and the mixture is stirred at the same temperature for 20 minutes. The reaction mixture is poured into cold two layers of aqueous sodium hydrogen carbonate and ethyl acetate and stirred. The organic layer is taken, washed with water and brine, dried over sodium sulfate and concentrated. The residue is purified by silica gel chromatography (toluene: ethyl acetate=5:1) to give 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetylamino]-3-(2-methyltetrazol-5-ylthiomethylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester (1.20 g) as yellow foam. Yield: 88%.

reactant | 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetylamino]-3-(2-methyltetrazol-5-yl thiomethylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester 1-oxide | 1.31 mMol, 1.38 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS([C@H]2N1C([C@H]2NC(\C(=N/OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)=O)SCSC=2N=NN(N2)C | C52H47N9O8S4
reactant | phosphorus trichloride | 3.28 mMol, 0.33 ml | P(Cl)(Cl)Cl | Cl3P
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetylamino]-3-(2-methyltetrazol-5-ylthiomethylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester | 1.20 g, Yield: 88% | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(\C(=N/OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)SCSC=2N=NN(N2)C | C52H47N9O7S4
